US07572809B2
Similar procedure as described in example 2c was used, starting from 4-Benzyloxy-2-cyanomethyl-5-methoxy-benzoic acid and 3-amino-5-methyl-1H-pyrazole to give 6-Benzyloxy-7-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one. LC-MS: m/e 377 (MH+).

reactant | 4-Benzyloxy-2-cyanomethyl-5-methoxy-benzoic acid | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1OC)CC#N | C17H15NO4
reactant | 3-amino-5-methyl-1H-pyrazole | NC1=NNC(=C1)C | C4H7N3
product | 6-Benzyloxy-7-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one | C(C1=CC=CC=C1)OC=1C=C2C=C(NC(C2=CC1OC)=O)NC1=NNC(=C1)C | C21H20N4O3
